US07407961B2
To a solution of phenol (147 mg) in NMP (1.0 ml), was added 60% NaH (52 mg) under ice-bath cooling. After 5 minutes stirring, 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (100 mg) was added to the mixture at the same temperature. And then the mixture was heated at 100° C. with stirring for 5.5 hours. After cooling, EtOAc and water were poured into the mixture, and the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was recrystallized from MeOH-IPE to give 5-(5-amino-6-phenoxy-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (88 mg).

reactant | phenol | 147 mg | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | 52 mg | [H-].[Na+]
reactant | 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 100 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C18H17BrN4O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | NMP | 1.0 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 5-(5-amino-6-phenoxy-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 88 mg | NC=1N=C(C(=NC1OC1=CC=CC=C1)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C24H22N4O2
